US08877758B2
26.4 2-chloro-5-fluoro-1-methyl-1H-benzimidazole
3.9 g 5-fluoro-1-methyl-1,3-dihydro-benzimidazole-2-one are suspended in 80 ml phosphorus oxychloride and the reaction mixture is stirred for 2 hours at reflux temperature. 50 ml diethylaniline are added. The reaction mixture is stirred for a further 10 minutes at reflux temperature and slowly mixed with ice water. The product is extracted with dichloromethane and purified by chromatography (silica gel, cyclohexane, methylene chloride/acetone 20/1). 1.4 g product are obtained as a solid. M.p=138-141° C.

reactant | 5-fluoro-1-methyl-1,3-dihydro-benzimidazole-2-one | 3.9 g | FC1=CC2=C(N(C(N2)=O)C)C=C1 | C8H7FN2O
reactant | diethylaniline | 50 ml | CCN(CC)C=1C=CC=CC1 | C10H15N
reactant | phosphorus oxychloride | 80 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-5-fluoro-1-methyl-1H-benzimidazole | 1.4 g | ClC1=NC2=C(N1C)C=CC(=C2)F | C8H6ClFN2
